US03957757
25.7 gm of the fumarate of 3-chloro-9-methoxy-carbonyl-9-(β-dimethylaminoethyl)-10-methyl-acridane were suspended in 250 cc of water and after refrigeration, 25 cc of sodium hydroxide solution were added. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried over magnesium sulfate and distilled to dryness in vacuo to obtain 20 gm of 3-chloro-9-methoxycarbonyl-9-(β -dimethylaminoethyl)-10-methylacridane. First 10 gm of lithium aluminum hydride and then 20 gm of 3-chloro-9-methoxycarbonyl-9-(β-dimethylaminoethyl)-10-methylacridane in solution in 200 cc of tetrahydrofuran were added to 200 cc of cold tetrahydrofuran at a temperature below 10°C and after stirring for 10 minutes at 0°C, it was refluxed for 15 minutes. After cooling the reaction mixture, excess reactants were decomposed by 200 cc of tetrahydrofuran containing 20% of water at a temperature below 10°C. After filtering and distilling the mixture to dryness in vacuo, the residue was dissolved in methylene chloride and the solution was washed with water, dried over magnesium sulfate and distilled to dryness in vacuo. The residue was dissolved in 80 cc of ethyl acetate and the resulting solution was filtered and concentrated to 50 cc after which crystallization began. After being iced for 30 minutes, the mixture was filtered and the precipitate was washed with ethyl acetate and then ether and dried to obtain 14.35 gm of 3-chloro-9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane melting at 120°C.

reactant | lithium aluminum hydride | 10 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-chloro-9-methoxycarbonyl-9-(β-dimethylaminoethyl)-10-methylacridane | 20 gm | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)C)(CCN(C)C)C(=O)OC | C20H23ClN2O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
product | 3-chloro-9-hydroxymethyl-9-(β-dimethylaminoethyl)-10-methyl-acridane | 14.35 gm | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)C)(CCN(C)C)CO | C19H23ClN2O
